US06852731B2
3-(Azidomethyl)-N-(4-chlorobenzyl)-2-(hydroxymethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
To a cold (0° C.), stirred solution of 230 mg of 3-(azidomethyl)-N-(4-chlorobenzyl)-2-formyl-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide in 6 mL of CH2Cl2 is added 0.16 mL of acetic acid and 296 mg of sodium triacetoxyborohydride. The ice bath is removed and the solution allowed to stir at room temperature for 2 h. Aqueous workup (CHCl3/aq. NaHCO3) followed by flash chromatography on silica using 3% MeOH in CH2Cl2 affords 150 mg of the title compound as a white solid. Recrystallization from acetonitrile provides off-white crystals.

reactant | 3-(azidomethyl)-N-(4-chlorobenzyl)-2-formyl-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 230 mg | N(=[N+]=[N-])CC1=C(SC2=C1N(C=C(C2=O)C(=O)NCC2=CC=C(C=C2)Cl)C)C=O | C18H14ClN5O3S
reactant | acetic acid | 0.16 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 296 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 3-(Azidomethyl)-N-(4-chlorobenzyl)-2-(hydroxymethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 150 mg | N(=[N+]=[N-])CC1=C(SC2=C1N(C=C(C2=O)C(=O)NCC2=CC=C(C=C2)Cl)C)CO | C18H16ClN5O3S
